US03994888
Methyl 7-phthalimido-3-methyl-3-cephem-4-carboxylate.
To a solution of 17.3 g. (0.05 mol.) of 7-phthalimido-3-methyl-3-cephem-4-carboxylic acid in 50 ml. of acetone and 20 ml. of water, 5 g. (0.05 mol.) of KHCO3 were slowly added. The resulting solution was evaporated to dryness, and 38 ml. of DMF and 5 ml. of methyl iodide were added to the residue. The mixture was stirred for 3 hrs. at room temperature. To this mixture were then added 100 g. of ice, and the resulting solid product was filtered. The product was crystallized from a mixture of 100 ml. of 2-propanol and 100 ml. of acetone. Yield: 7.91 of crystals, m.p. 187°-188°; ir (CHCl3) 1790 and 1735 cm-1, nmr (CDCl3) δ 2.31 (s, 3, CH3), 3.0 and 3.75 (ABq, 2, J=15 Hz), 3.85 (s, 3, CH3), 5.15 (d, 1, J= 4.4 Hz), 5.4 (d, 1, J=4.4 Hz) and 7.73 (m, 4, ArH).

reactant | 7-phthalimido-3-methyl-3-cephem-4-carboxylic acid | 0.05 mol | C1(C=2C(C(N1C1[C@@H]3N(C(=C(CS3)C)C(=O)O)C1=O)=O)=CC=CC2)=O | C16H12N2O5S
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | Methyl 7-phthalimido-3-methyl-3-cephem-4-carboxylate | C1(C=2C(C(N1C1[C@@H]3N(C(=C(CS3)C)C(=O)OC)C1=O)=O)=CC=CC2)=O | C17H14N2O5S
